US04568375
2-Fluoro-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran
In this example, a mixture containing 3 g of 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran, 0.26 of 18-Crown-6 ether and 1.11 g of potassium fluoride in 20 ml of acetonitrile was stirred at room temperature for about 30 minutes and then refluxed overnight (about 16 hours). The mixture was then cooled, filtered, and then concentrated by evaporation. The residue was chromatographed eluting with 3 vol. % tetrahydrofuran:97% chloroform affording the title compound.

reactant | 2-bromo-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | 3 g | BrC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C13H11BrF3NO2
reactant | 18-Crown-6 ether | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium fluoride | 1.11 g | [F-].[K+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 2-Fluoro-3-oxo-4-(3-trifluoromethylphenyl)-5-dimethylamino-2,3-dihydrofuran | FC1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N(C)C | C13H11F4NO2
